US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-(4-fluorophenyl)-6-(1-methylethyl)-2-oxo-1,2-dihydropyridine-3-carboxamide
A mixture of N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (150 mg, 0.459 mmol), 1-(4-fluorophenyl)-6-(1-methylethyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid (151 mg, 0.551 mmol), HATU (262 mg, 0.689 mmol), N,N-diisopropylethylamine (240 μL, 1.37 mmol) and N,N-dimethylformamide (3 mL) was stirred at room temperature for 4 days. After dilution with ethyl acetate, the mixture was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, 30 g, ethyl acetate/hexane=2/98-+80/20) to give the title compound (157 mg, 58%) as a white powder.

reactant | N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.459 mmol, 150 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
reactant | 1-(4-fluorophenyl)-6-(1-methylethyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 0.551 mmol, 151 mg | FC1=CC=C(C=C1)N1C(C(=CC=C1C(C)C)C(=O)O)=O | C15H14FNO3
reactant | HATU | 0.689 mmol, 262 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 1.37 mmol, 240 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-(4-fluorophenyl)-6-(1-methylethyl)-2-oxo-1,2-dihydropyridine-3-carboxamide | 157 mg, 58% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(C(=CC2)C(C)C)C2=CC=C(C=C2)F)=O)F)C1 | C32H27F2N5O4
